US07812016B2
A solution of 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol (9 mg, 0.02 mmol) and sodium methanesulfinic acid (100 mg) in 1-methylpyrrolidin-2-one (2 mL) was heated at 150° C. for 3 hours. The resultant solution was cooled to room temperature and water was added. The solids which formed were removed by filtration and further purified by preparative HPLC to give 7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-5-(methylsulfonyl)-1,6-naphthyridin-8-ol (3 mg, 33%) as a white solid. 1H NMR (CDCl3): δ 9.32 (d, J=8.4 Hz, 1 H), 9.25(d, J=4.4 Hz, 1 H), 7.75 (dd, J=8.4, 4.4 Hz, 1 H), 7.36 (dd, J=8.4, 5.6 Hz, 2 H), 7.03 (t, J=8.4 Hz, 2 H). 4.24 (s, 2 H), 3.42 (s, 3 H); MS m/z 400 (M+1).

reactant | 5-bromo-7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-1,6-naphthyridin-8-ol | 0.02 mmol, 9 mg | BrC1=C2C=CC=NC2=C(C(=N1)C1=NN=C(N1)CC1=CC=C(C=C1)F)O | C17H11BrFN5O
reactant | sodium methanesulfinic acid | 100 mg | CS(=O)O.[Na]
reactant | water | O | H2O
solvent | 1-methylpyrrolidin-2-one | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 7-[5-(4-fluorobenzyl)-4H-1,2,4-triazol-3-yl]-5-(methylsulfonyl)-1,6-naphthyridin-8-ol | 3 mg, 33% | FC1=CC=C(CC=2NC(=NN2)C2=NC(=C3C=CC=NC3=C2O)S(=O)(=O)C)C=C1 | C18H14FN5O3S
